US04539152
To a solution of methyl 2-{(3R,4R)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-2-oxo-4-(prop-2-enyl)azetidin-1-yl}-3-methylbut-2-enoate (50 mg) in acetone (2.79 ml) were added water (0.93 ml) and a 0.7M solution of phosphate buffer (pH 6.8, 1.86 ml) at ambient temperature. Sodium periodate (139 mg) was added to the resulting suspension at ambient temperature and the mixture was stirred for 20 minutes. Potassium permanganate (26 mg) was then added and the resulting mixture was stirred for 26 hours at ambient temperature. The mixture was acidified with 2N hydrochloric acid (2 ml) and filtered using diatomaceous earth, and the filter-cake was washed with acetone and water. The filtrates were combined and concentrated under reduced pressure to a half volume. The concentrate was extracted three times with chloroform. The organic layers were combined, washed with brine and extracted with 5% aqueous sodium bicarbonate and water. The combined aqueous extracts were acidified with 2N hydrochloric acid and extracted three times with chloroform. The organic extracts were combined, washed with brine, dried over magnesium sulfate and evaporated in vacuo to give {(2R,3R)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-4-oxoazetidin-2-yl}acetic acid (16 mg).

reactant | methyl 2-{(3R,4R)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-2-oxo-4-(prop-2-enyl)azetidin-1-yl}-3-methylbut-2-enoate | 50 mg | CC(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@@H]1C(N([C@@H]1CC=C)C(C(=O)OC)=C(C)C)=O | C23H28N2O8
reactant | phosphate | 1.86 ml, pH 6.8 | P(=O)([O-])([O-])[O-]
reactant | Sodium periodate | 139 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | Potassium permanganate | 26 mg | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | hydrochloric acid | 2N, 2 ml | Cl | ClH
reactant | acetone | 2.79 ml | CC(=O)C | C3H6O
solvent | water | 0.93 ml | O | H2O
product | {(2R,3R)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-4-oxoazetidin-2-yl}acetic acid | 16 mg | CC(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@H]1[C@H](NC1=O)CC(=O)O | C16H18N2O8
